US08492006B2
Synthesis of 2-(3,5-dimethylphenyl)-6-(trimethylgermyl)quinoline
6-Bromo-2-(3,5-dimethylphenyl)quinoline (6.0 g, 19.2 mmol) and 150 mL anhydrous THF were added in a dry 2-necked round bottom flask and cooled down to −78° C. 8.46 mL BuLi (2.5 M in hexane) was added dropwise. The solution was stirred for 45 minutes at −78° C. and 2.83 mL (23.06 mmol) of chlorotrimethylgermane was slowly added with a syringe. The solution was stirred for overnight. The reaction mixture was purified by column 5% ethyl acetate in hexane and distillation. ˜4.1 g white slide was obtained after recrystallization from hexane. GC-MS confirmed the desired product.

reactant | 6-Bromo-2-(3,5-dimethylphenyl)quinoline | 19.2 mmol, 6.0 g | BrC=1C=C2C=CC(=NC2=CC1)C1=CC(=CC(=C1)C)C | C17H14BrN
reactant | BuLi | 2.5 M, 8.46 mL | [Li]CCCC
reactant | chlorotrimethylgermane | 23.06 mmol, 2.83 mL | Cl[Ge](C)(C)C | C3H9ClGe
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(3,5-dimethylphenyl)-6-(trimethylgermyl)quinoline | CC=1C=C(C=C(C1)C)C1=NC2=CC=C(C=C2C=C1)[Ge](C)(C)C | C20H23GeN
